US04582837
2-(3'-Methoxy-4'-methanesulfonylamino-phenyl)-imidazo[4,5-b]pyridine
Prepared analogously to Example 14 from 2,3-diaminopyridine and 3-methoxy-4-methanesulfonylamino-benzoic acid.

reactant | 2,3-diaminopyridine | NC1=NC=CC=C1N | C5H7N3
reactant | 3-methoxy-4-methanesulfonylamino-benzoic acid | COC=1C=C(C(=O)O)C=CC1NS(=O)(=O)C | C9H11NO5S
product | 2-(3'-Methoxy-4'-methanesulfonylamino-phenyl)-imidazo[4,5-b]pyridine | COC=1C=C(C=CC1NS(=O)(=O)C)C=1NC=2C(=NC=CC2)N1 | C14H14N4O3S
